data/mechanisms/records/IMS8-EQ8.52.json
{"mechanism_id": "IMS8-EQ8.52", "species": [{"species_id": "cyclic_onium_ee_ion", "mapped_smiles": "[CH3:3][C:2]1=[O+:1][CH2:7][CH2:6][CH2:5][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "bis_methylene_onium_ion", "mapped_smiles": "[CH2:7]=[O+:1][C:2]([CH3:3])=[CH2:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_onium_ee_ion"]}, {"state_id": "state_products", "species_ids": ["bis_methylene_onium_ion", "ethylene_neutral"]}], "steps": [{"step_id": "step_double_inductive_retro_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_double_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_inductive_retro_cleavage", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.52", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "GENERIC SCHEME, printed under the heading 'EE+'. Same cyclic onium (oxocarbenium) precursor as Eq 8.51, but here the ring is drawn explicitly as a HEXAGON: Y+ at the top vertex, single-bonded to one ring carbon and double-bonded to the neighbouring ring carbon that carries R. The arrow is again labelled 'i, i' (two charge-site/inductive cleavages). Products: the cross-conjugated onium CH2=Y+-C(R)=CH2 plus neutral ETHYLENE (drawn as a bare double bond, i.e. an alkene - contrast Eq 8.51, whose neutral is drawn as a closed ring). INSTANTIATION (F/B): Y=O, R=CH3, hexagon = the 2-methyl-oxocarbenium of tetrahydropyran, C6H11O+ m/z 99.0804, charge localised on the ring oxygen exactly where the book prints the '+'. Product ion CH2=O+-C(CH3)=CH2, C4H7O+ m/z 71.0491. Book draws 3 arc(s); moves <1,2,3> are ALL drawn and no implicit move is required - the three two-electron arcs form one closed cascade running the same way round the ring, so the bookkeeping closes exactly. Arc 1 (upper right, tail on the Y=C bond, head pointing at the right ring bond): the Y=C pi pair drops into the C(R)-C bond (maps 2-4). Arc 2 (bottom, head at the lower-left ring bond): the ring sigma bond it leaves (maps 4-5) becomes the new C=C of the expelled ethylene (maps 5-6). Arc 3 (left, tail on the left ring bond, head pointing up at the Y-C bond): that sigma pair (maps 6-7) becomes the new CH2=Y+ pi bond (maps 1-7). Net: two ring bonds (4-5 and 6-7) are cleaved and three bond orders rise, the charge staying on Y throughout."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 99.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c4h7o", "species_id": "bis_methylene_onium_ion", "step_id": "step_double_inductive_retro_cleavage", "observed_mz": 71.0491, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
